US05131911
b/ Preparation of 4-benzyloxy-2,3-dimethyl-7-methoxyindole
1 mole (229 g) of 3-benzyloxy-6-methoxyaniline is added to 700 ml of dimethylformamide and 0.5 mole (76 g) of 2-bromobutanone. The reaction medium is heated to 40° C. for 2 hours 30 minutes and then to 120° C. for three quarters of an hour. By adding ice and then cooling, an oil is obtained which is decanted and then dissolved in ethyl acetate. After washing with a 2N solution of hydrochloric acid, then with water and evaporation of the ethyl acetate, the desired product is obtained in the form of a dry extract which is recrystallized from cyclohexane under reflux. The desired product melts at 100° C.

reactant | 3-benzyloxy-6-methoxyaniline | 1 mole, 229 g | C(C1=CC=CC=C1)OC=1C=C(N)C(=CC1)OC | C14H15NO2
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-2,3-dimethyl-7-methoxyindole | C(C1=CC=CC=C1)OC1=C2C(=C(NC2=C(C=C1)OC)C)C | C18H19NO2
